### ISSUE TITLE
(kernel) invalid projection when extracting the proposition from an `Exists` statement.

### ISSUE THREAD

**Issue by grhkm21** [leanprover/lean4#2697]
### Prerequisites

* [X] Put an X between the brackets on this line if you have done all of the following:
    * Check that your issue is not already [filed](https://github.com/leanprover/lean4/issues).
    * Reduce the issue to a minimal, self-contained, reproducible test case. Avoid dependencies to mathlib4 or std4.

### Description

The following code explains the issue:

```lean
set_option pp.rawOnError true
/- Error:
(kernel) invalid projection
  h.2
-/
example (h : ∃ _ : Nat, P) : P := h.2

/- Works -/
example (h : ∃ _ : Nat, P) : P := by
  let ⟨_, P⟩ := h
  exact P
```

### Context

The issue is discussed [here](https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/Kernel.20Invalid.20Projection). It seems that the error *makes sense*, but Alex suggested me to open an issue since it's a `kernel` error.

### Versions

The error appears since `Lean (version 4.0.0, commit ec941735c80d, Release)` up til `v4.2.0-rc1`, on a Mac Intel.

### Others

As mentioned above, the error makes sense from a human perspective, so if this `kernel` error is intended, feel free to close this issue :)

**Comment by sgraf812** [comment]
Here's an example that is a bit more tricky:

```
def blub (h : ∃ (a : Bool), ∃ (b : Bool), a = b) : Set Bool := 
  { b | b = (Classical.indefiniteDescription _ h.2).val }
```

The workaround does not work here:

```
def blub (h : ∃ (a : Bool), ∃ (b : Bool), a = b) : Set Bool := 
  { b | b = (Classical.indefiniteDescription _ (by have ⟨_,h⟩ := h; exact h)).val }
```

gives

```
type mismatch
  h
has type
  ∃ b, w✝ = b : Prop
but is expected to have type
  ∃ x, ?m.29296 b x : Prop
```

And this error is quite instructive, because it is impossible to instantiate the unification variable to match `w✝`.

It would have helped to get a similar error message for the first example, produced by the elaborator.

**Comment by sven-manthe** [comment]
When extracting the projection into a have statement, this also leads to an error, but not in the have statement itself, but only when the kernel checks the finished proof. I'm not sure whether this would be fixed by fixing this bug or whether the error handling of have should be improved. MWE:
```
theorem test : ∃ n, n = 0 := ⟨0, rfl⟩
example : True := by
  have h := test.2
  exact trivial
```
